US07544697B2
A modification of the method described in Part A of Example 11 was followed. A mixture of ethyl 2,4-dioxo-6-phthalimidohexanoate, sodium salt (prepared as described in Part A of Example 23, 100 g, 295 mmol) in glacial acetic acid (0.3 L) was cooled to 9° C. before the addition of methylhydrazine (16.0 mL,300 mmol). During the addition, the reaction temperature did not exceed 16° C. Solids were rinsed from the inside of the flask walls into the mixture with acetic acid (50 mL) and the mixture was allowed to warm to ambient temperature and stir overnight. Water was added to the mixture and additional solid precipitated. The solid was isolated by filtration, dried, and recrystallized from ethanol. The solid was isolated and dried to yield 75.2 g of ethyl 5-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-methyl-1H-pyrazole-3-carboxylate.

reactant | ethyl 2,4-dioxo-6-phthalimidohexanoate | O=C(C(=O)OCC)CC(CCN1C(C=2C(C1=O)=CC=CC2)=O)=O | C16H15NO6
reactant | sodium | [Na] | Na
reactant | methylhydrazine | 300 mmol, 16.0 mL | CNN | CH6N2
solvent | acetic acid | 0.3 L | C(C)(=O)O | C2H4O2
product | ethyl 5-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-methyl-1H-pyrazole-3-carboxylate | 75.2 g | O=C1N(C(C2=CC=CC=C12)=O)CCC1=CC(=NN1C)C(=O)OCC | C17H17N3O4
